US05843940
3-Benzyloxy-bromobenzene
A slurry of 3-bromophenol 100 g (580 mmol), benzylchloride 80 g (700 mmol), and K2CO3 168 g (1210 mmol) in 2 L of DMF was stirred for sixteen hour at ambient temperature. The reaction mixture was filtered and evaporated to dryness. The solid was partioned between CHCl3 and water. The organic layer was separated, washed twice with brine, and dried by filtration through anhydrous Na2SO4. The solution was evaporated to dryness. This yielded 142.5 g of the title compound as a white solid.

reactant | 3-bromophenol | 580 mmol, 100 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | benzylchloride | 700 mmol, 80 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 1210 mmol, 168 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 L | CN(C)C=O | C3H7NO
product | 3-Benzyloxy-bromobenzene | C(C1=CC=CC=C1)OC=1C=C(C=CC1)Br | C13H11BrO
